US04698337
Sodium azide (14.87 g.) was added to a solution of 2-(2-formamidothiazol-4-yl)-2-(2- bromoethoxyimino)acetic acid (syn isomer, 15.7 g.) in N,N-dimethylformamide (100 ml.) and water (75 ml.), and stirred at room temperature for 2 days. To the resultant solution was added water (25 ml.) and adjusted to pH 8.0 with a saturated aqueous solution of sodium bicarbonate. The solution was washed with ethyl acetate (250 ml.). The solution was adjusted to pH 2.5 and extracted with ethyl acetate (350 ml.). The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was recrystalized from a solution of acetone and methylene chloride (3:1) repeatedly. The precipitates were collected by filtration to give 2-(2-formamidothiazol-4-yl)-2-(2-azidoethoxyimino)acetic acid (syn isomer, 4.95 g.).

reactant | Sodium azide | 14.87 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-(2-formamidothiazol-4-yl)-2-(2- bromoethoxyimino)acetic acid | 15.7 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCBr | C8H8BrN3O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 75 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 2-(2-formamidothiazol-4-yl)-2-(2-azidoethoxyimino)acetic acid | 4.95 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCN=[N+]=[N-] | C8H8N6O4S
